US07951828B1
Step 2: Production of N-acetyl-N-(5-chloro-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide
In a solution of 0.20 g of N-(5-chloro-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl benzoic acid amide in 3 mL of tetrahydrofuran, 0.025 g of 55% oily sodium hydride was added under cooling with ice and with stirring and stirred at room temperature for 10 minutes. After ceasing the generation of hydrogen gas, 0.045 g of acetyl chloride was added under cooling with ice and with stirring, and continued to stir at the same temperature further for 1 hour. After the completion of the reaction, the reaction mixture was poured in 10 mL of ice water, extracted with ethyl acetate (10 mL×1), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (gradient of 1:9 to 3:7) to obtain 0.10 g of the aimed product as white crystal.

reactant | N-(5-chloro-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl benzoic acid amide | 0.20 g | ClC=1C=NC(=NC1)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H14Cl3F3N4O2
reactant | sodium hydride | 0.025 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | acetyl chloride | 0.045 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-acetyl-N-(5-chloro-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide | 0.10 g | C(C)(=O)N(C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=NC=C(C=N1)Cl | C24H16Cl3F3N4O3
